US04577018
2,3-Diamino-5-(2-hydroxyethyl)-6-methyl-4(3H)-pyrimidinone
A mixture of 13.6 g of aminoguanidine bicarbonate and 12.8 g of 2-acetyl butyrolactone in 80 ml of n-butanol was heated at reflux until a clear solution was obtained. This solution was cooled, evaporated to dryness in vacuo and the residue was triturated with 200 ml of a 50/50 ether-chloroform mixture, giving 12 g of the desired intermediate, mp 126°-135° C.

reactant | aminoguanidine bicarbonate | 13.6 g | C(O)(O)=O.NNC(=N)N
reactant | 2-acetyl butyrolactone | 12.8 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | n-butanol | 80 ml | C(CCC)O | C4H10O
product | 2,3-Diamino-5-(2-hydroxyethyl)-6-methyl-4(3H)-pyrimidinone | 12 g | NC1=NC(=C(C(N1N)=O)CCO)C | C7H12N4O2
